US07211601B2
(3EZ,5S)-5-[(4-hydroxy-1-piperidinyl)carbonyl]-1-[(2′-methyl[1,1′-biphenyl]-4-yl)carbonyl]-3-pyrrolidinone O-methyloxime
Following the general method as outlined in Example 22, starting from (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid, 2′-methyl[1,1′-biphenyl]-4-carboxylic acid, and 4-piperidinol, the title compound was obtained in 86% purity by HPLC. MS(ESI+): m/z=436.

reactant | (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=NOC)C(=O)O | C11H18N2O5
reactant | 2′-methyl[1,1′-biphenyl]-4-carboxylic acid | CC1=C(C=CC=C1)C1=CC=C(C=C1)C(=O)O | C14H12O2
reactant | 4-piperidinol | N1CCC(CC1)O | C5H11NO
product | (3EZ,5S)-5-[(4-hydroxy-1-piperidinyl)carbonyl]-1-[(2′-methyl[1,1′-biphenyl]-4-yl)carbonyl]-3-pyrrolidinone O-methyloxime | CON=C1CN([C@@H](C1)C(=O)N1CCC(CC1)O)C(=O)C1=CC=C(C=C1)C1=C(C=CC=C1)C | C25H29N3O4
